US05545507
Phenyl chloroformate (10 g, 63.8 mmol) in ether (10 mL) was added dropwise to a stirred mixture of finely ground hydroxylamine hydrochloride (63.8 mmol, 4.43 g) and potassium carbonate (58.4 mmol, 8.07 g) in ether (10 mL) containing water (1 mL) at 0° C. The mixture was stirred at room temperature for three days, filtered, and the solvent evaporated to give the Phenyl-N-hydroxycarbamate as crystals, m.p. 99.5°-100.7° C. (9.20 g, 94%).

reactant | Phenyl chloroformate | 63.8 mmol, 10 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | hydroxylamine hydrochloride | 63.8 mmol, 4.43 g | Cl.NO
reactant | potassium carbonate | 58.4 mmol, 8.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | Phenyl-N-hydroxycarbamate | C1(=CC=CC=C1)OC(NO)=O | C7H7NO3
